US05908843
A mixture of 1.86 g of 4-aminopiperazin-1-ylacetic acid, 2.22 g of methyl 3-(3-aminobenzamido)propionate, 1.92 g of DAPECI hydrochloride, 1.01 g of N-methylmorpholine and 70 ml of DMF is stirred for 16 hours at 20°. It is evaporated and the residue is worked up with ethyl acetate/5% NaHCO3 solution to give methyl 3-(3-(4-amidinopiperazin-1-ylacetamido)benzamido)propionate. Dihydrochloride m.p. 222°.

reactant | 4-aminopiperazin-1-ylacetic acid | 1.86 g | NN1CCN(CC1)CC(=O)O | C6H13N3O2
reactant | methyl 3-(3-aminobenzamido)propionate | 2.22 g | NC=1C=C(C(=O)NCCC(=O)OC)C=CC1 | C11H14N2O3
reactant | hydrochloride | Cl | ClH
reactant | N-methylmorpholine | 1.01 g | CN1CCOCC1 | C5H11NO
reactant | DMF | 70 ml | CN(C)C=O | C3H7NO
product | methyl 3-(3-(4-amidinopiperazin-1-ylacetamido)benzamido)propionate. Dihydrochloride | Cl.Cl.C(N)(=N)N1CCN(CC1)CC(=O)NC=1C=C(C(=O)NCCC(=O)OC)C=CC1 | InChI=1S/C18H26N6O4.2ClH/c1-28-16(26)5-6-21-17(27)13-3-2-4-14(11-13)22-15(25)12-23-7-9-24(10-8-23)18(19)20;;/h2-4,11H,5-10,12H2,1H3,(H3,19,20)(H,21,27)(H,22,25);2*1H
